US07709483B2
(m) Methyl 3-[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]-2-[6-fluoro-3-(methyloxy)-5-quinoxalinyl]propanoate
A mixture of methyl 2-[6-fluoro-3-(methyloxy)-5-quinoxalinyl]-2-propenoate (13.64 g, 52.1 mmol), 1,1-dimethylethyl 4-piperidinylcarbamate (11.45 g, 57.3 mmol) and 1,1,3,3-tetramethylguanidine (3.12 ml) in dry dimethylformamide (300 ml) was heated at 65° C. (bath temp.) for 17 h. The solvent was evaporated and the residue was dissolved in ethyl acetate and water. The aqueous phase was extracted twice with ethyl acetate and the combined organic fractions were dried and evaporated. Chromatography on silica (1000 g), eluting with 2-5% methanol/dichloromethane gave the product (21.81 g, 91%).

reactant | methyl 2-[6-fluoro-3-(methyloxy)-5-quinoxalinyl]-2-propenoate | 52.1 mmol, 13.64 g | FC=1C(=C2N=C(C=NC2=CC1)OC)C(C(=O)OC)=C | C13H11FN2O3
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 57.3 mmol, 11.45 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | 1,1,3,3-tetramethylguanidine | 3.12 ml | CN(C(=N)N(C)C)C | C5H13N3
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | Methyl 3-[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]-2-[6-fluoro-3-(methyloxy)-5-quinoxalinyl]propanoate | 21.81 g, 91% | CC(C)(C)OC(=O)NC1CCN(CC1)CC(C(=O)OC)C1=C2N=C(C=NC2=CC=C1F)OC | C23H31FN4O5
